US06352993B1
Step 2: 4-benzylpiperazineacetic acid dihydrochloride
Ethyl 4-benzylpiperazineacetate (2.38 g, 9.0 mmol) was added to 3M hydrochloric acid solution(12 ml), refluxed for 2 hours, stirred for 1 day at a room temperature, and then concentrated under reduced pressure. The resulting residue was dissolved in methanol and reconcentrated. The resulting solid was suspended in ethyl ether, filtered and dried under a reduced pressure to give 2.14 g of the titled compound. (Yield 77.4%)

reactant | Ethyl 4-benzylpiperazineacetate | 9.0 mmol, 2.38 g | C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)OCC | C15H22N2O2
reactant | hydrochloric acid | 3M, 12 ml | Cl | ClH
product | 4-benzylpiperazineacetic acid dihydrochloride | 2.14 g, Yield 77.4% | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)O | InChI=1S/C13H18N2O2.2ClH/c16-13(17)11-15-8-6-14(7-9-15)10-12-4-2-1-3-5-12;;/h1-5H,6-11H2,(H,16,17);2*1H
